* NGSPICE file created from not_rosc9.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_16 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_16 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_8 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_8 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_32 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_32 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__inv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__inv_1 I ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

.subckt not_rosc9 VDD VSS rosc_enable rosc_out
XFILLER_3_24 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XPHY_EDGE_ROW_6_Right_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_3_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_6_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_3_48 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XTAP_TAPCELL_ROW_2_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_0_48 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_6_48 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
Xinv\[7\] inv_in\[7\] rosc_out VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XPHY_EDGE_ROW_3_Left_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_1_50 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_5_Right_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_31 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xinv\[5\] inv_in\[5\] inv_in\[6\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XPHY_EDGE_ROW_0_Left_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_45 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_1_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
Xinv\[3\] inv_in\[3\] inv_in\[4\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XTAP_TAPCELL_ROW_0_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_6_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_4_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_4_15 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_49 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xinv\[1\] inv_in\[1\] inv_in\[2\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XPHY_EDGE_ROW_1_Left_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_6_17 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_6_Left_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_5_50 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_4_Right_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_2_ _0_ rosc_enable inv_in\[0\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
X_1_ inv_out\[8\] _0_ VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XFILLER_2_31 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xinv\[8\] rosc_out inv_out\[8\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XFILLER_5_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_2_45 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_2_Left_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_0_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XPHY_EDGE_ROW_5_Left_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_2_15 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
Xinv\[6\] inv_in\[6\] inv_in\[7\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XFILLER_2_49 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XTAP_TAPCELL_ROW_4_16 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinv\[4\] inv_in\[4\] inv_in\[5\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XFILLER_3_50 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_50 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_6_50 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_40 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
Xinv\[2\] inv_in\[2\] inv_in\[3\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XFILLER_5_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XPHY_EDGE_ROW_4_Left_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_0_44 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_6_44 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xinv\[0\] inv_in\[0\] inv_in\[1\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
.ends

